US06794397B2
6-Trifluoromethyl-N-(4-ethoxy-2-nitrophenyl)-3-pyridinecarboxamide
The title compound was prepared from 6-trifluoromethylnicotinic acid and 4-ethoxy-2-nitroaniline as a yellow solid as described in Example 15. 1H NMR (CDCl3): 11.23 (s, 1H), 9.32 (d, J=3.6, 1H), 8.83 (d, J=9.3, 1H), 8.47-8.43 (m, 1H), 7.88 (d, J=8.1, 1H), 7.76 (d, J=3.0, 1H), 7.35-7.31 (m, 1H), 4.12 (q, J=6.9, 2H), 1.47 (t, J=6.9, 3H).

reactant | 6-trifluoromethylnicotinic acid | FC(C1=NC=C(C(=O)O)C=C1)(F)F | C7H4F3NO2
reactant | 4-ethoxy-2-nitroaniline | C(C)OC1=CC(=C(N)C=C1)[N+](=O)[O-] | C8H10N2O3
product | 6-Trifluoromethyl-N-(4-ethoxy-2-nitrophenyl)-3-pyridinecarboxamide | FC(C1=CC=C(C=N1)C(=O)NC1=C(C=C(C=C1)OCC)[N+](=O)[O-])(F)F | C15H12F3N3O4
